US05712300
Preparation of tert-Butyl α-(1-Aminomethyl)-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetate
A mixture of tert-butyl α-(1-azidomethyl)-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetate (648 mg, 1.56 mmol) and 10% palladium on carbon (163 mg) in EtOH (25 mL) is hydrogenated at 30 psi in a Parr flask for 16 hours. The mixture is filtered, rinsing the residual solids with MeOH and CH2 Cl2. The filtrate is concentrated and purified by silica gel chromatography (15 g SG; EtOAc, 15% MeOH/EtOAc) to provide 356 mg (57%) of the title compound as a partially crystalline solid:

reactant | tert-butyl α-(1-azidomethyl)-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetate | 1.56 mmol, 648 mg | N(=[N+]=[N-])CC(C(=O)OC(C)(C)C)C1(C(N(CC1)CCC1=CC=CC=C1)=O)CC(C)C | C23H34N4O3
catalyst | palladium on carbon | 163 mg | [Pd] | Pd
solvent | EtOH | 25 mL | CCO | C2H6O
product | tert-Butyl α-(1-Aminomethyl)-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetate | 356 mg, 57% | NCC(C(=O)OC(C)(C)C)C1(C(N(CC1)CCC1=CC=CC=C1)=O)CC(C)C | C23H36N2O3
